US08124624B2
(1,2,3,4-Tetrahydroquinolin-2-yl)methanol
1,2,3,4-Tetrahydroquinoline-2-carboxylic acid ethyl ester (4.75 g, 25 mmol) in THF (5 ml/mmol) was added dropwise at 0° C. to a suspension of LAH (2 eq.) in THF (50 ml). The reaction mixture was stirred for 1 h at RT and then heated for 4 h under reflux. After addition of saturated aqueous Na2SO4 solution, filtration was carried out and the organic solvent was removed in vacuo. The product was purified by column chromatography (silica gel, ethyl acetate/hexane 3:7).

reactant | 1,2,3,4-Tetrahydroquinoline-2-carboxylic acid ethyl ester | 25 mmol, 4.75 g | C(C)OC(=O)C1NC2=CC=CC=C2CC1 | C12H15NO2
reactant | LAH | 2 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (1,2,3,4-Tetrahydroquinolin-2-yl)methanol | N1C(CCC2=CC=CC=C12)CO | C10H13NO
